US08193378B2
K2CO3 (835 mg) was suspended in dioxane (40 mL), and 2-hydroxy-4-(methoxymethoxy)benzaldehyde (1 g) and 3-methyl 2-butanal (0.787 mL) were added thereto, followed by stirring at 110° C. overnight. EtOAc was added thereto, the insoluble materials were removed by filtration through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=95:5 to 70:30) to obtain 7-(methoxymethoxy)-2,2-dimethyl-2H-chromene-3-carbaldehyde (320 mg) as a yellow oil.

reactant | K2CO3 | 835 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-hydroxy-4-(methoxymethoxy)benzaldehyde | 1 g | OC1=C(C=O)C=CC(=C1)OCOC | C9H10O4
reactant | 3-methyl 2-butanal | 0.787 mL | CC(C(C)=O)C | C5H10O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 7-(methoxymethoxy)-2,2-dimethyl-2H-chromene-3-carbaldehyde | 320 mg | COCOC1=CC=C2C=C(C(OC2=C1)(C)C)C=O | C14H16O4
